US08877975B2
(a) Synthesis of 7a-Phenyl-hexahydro-isobenzofuran-1-one
The title compound was prepared from hexahydro-isobenzofuran-l-one (10 g, 1.3 eq) and phenyl bromide (5.4 mL, 51.27 mmol) according to General Procedure K. It was obtained as a clear oil (7.40 g, 67%). HPLC Rt (5-100-8)=9.8 min. 1H NMR (CDCl3, δ): 7.4-7.2 (m, 5H), 4.05 (dd, 1H), 3.90 (dd, 1H), 2.8 (m, 1H), 2.3 (m, 1H), 2.0 (m, 1H), 1.8-1.3 (m, 6H). 13C NMR (CDCl3, δ, mult): 178.6 (0), 140.5 (0), 128.8 (1), 127.3 (1), 126.3 (1), 70.3 (2), 52.5 (0), 41.0 (1), 34.2 (2), 27.5 (2), 23.4 (2), 23.2 (2).

reactant | hexahydro-isobenzofuran-l-one | 10 g, 1.3 eq | C1(OCC2CCCCC12)=O | C8H12O2
reactant | phenyl bromide | 51.27 mmol, 5.4 mL | C1(=CC=CC=C1)Br | C6H5Br
product | 7a-Phenyl-hexahydro-isobenzofuran-1-one | C1(=CC=CC=C1)C12CCCCC2COC1=O | C14H16O2
